US09403806B1
tert-Butyl 3-cyano-3-hydroxypiperidine-1-carboxylate (41):
1-Boc-3-piperidinone (5.0 g, 0.0251 mol) in THF (15 mL) was added dropwise to a solution of potassium cyanide (1.8 g, 0.0276 mol) in water (15 mL) at 0-5° C. Acetic acid (1.6 mL, 0.0276 mol) was added and the solution was allowed to warm to room temperature and stir for 1 hr. The mixture was partitioned between water (50 mL) and ethyl acetate (1×150 mL). The organics were washed with 2×50 mL water, 1×50 mL saturated sodium chloride, and dried over Na2SO4. The dried organics were evaporated to obtain 5.5 g of yellow solid. The material was used without purification. MS (ESI) m/z 265 [M+K]+.

reactant | 1-Boc-3-piperidinone | 0.0251 mol, 5.0 g | C(=O)(OC(C)(C)C)N1CC(CCC1)=O | C10H17NO3
reactant | potassium cyanide | 0.0276 mol, 1.8 g | [C-]#N.[K+]
reactant | Acetic acid | 0.0276 mol, 1.6 mL | C(C)(=O)O | C2H4O2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | water | 15 mL | O | H2O
product | tert-Butyl 3-cyano-3-hydroxypiperidine-1-carboxylate | 5.5 g | C(#N)C1(CN(CCC1)C(=O)OC(C)(C)C)O | C11H18N2O3
